US06274632B1
Preparation of 4,4-difluorobut-3-enyl sulfinylchloride.
Thionyl chloride (200 ml) in dry n-hexane (400 ml) was stirred at ambient temperature and 4,4-difluorobut-3-enyl-sulfinic acid sodium salt ( 44 g) was added in portions. On complete addition the mixture was heated to reflux under nitrogen for 4.5 hours, cooled to ambient temperature then filtered. The filtrate was evaporated under reduced pressure to give a liquid which was distilled and the fraction collected at bp 50-60° C. at 0.1 mm Hg to yield

reactant | Thionyl chloride | 200 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4,4-difluorobut-3-enyl-sulfinic acid sodium salt | 44 g | [Na+].FC(=CCCS(=O)[O-])F
solvent | n-hexane | 400 ml | CCCCCC | C6H14
product | 4,4-difluorobut-3-enyl sulfinylchloride | FC(=CCCS(=O)Cl)F | C4H5ClF2OS
